US08426446B2
Step 1. Synthesis of 4-methyl-3-(3-(pyridin-3-yl)acrylamido)benzoic acid methyl ester
To a suspension of 3-pyridin-3-ylacryloyl chloride hydrochloride (5.1 g) in anhydrous dichloromethane (100 ml), a solution of 3-amino-4-methyl benzoic acid methyl ester (2.75 g) and triethylamine (2.3 ml) in dichloromethane (50 ml) was added dropwise slowly in an ice-bath with the temperature no more than 5° C. After addition, the reaction was carried out for 30 min in an ice-bath, and to then at room temperature for 3 h. The completion of reaction was indicated by TLC. The reaction mixture was concentrated and dissolved into 150 ml of sodium hydroxide solution (10%). The reaction mixture was extracted with EtOAc (30 ml*3). The organic layer was dried over anhydrous MgSO4, and filtered. Most EtOAc was removed by evaporation under reduced pressure. The is residue was cooled in refrigerator. Crystallization and filtration provided a light yellow crystal.

reactant | 3-pyridin-3-ylacryloyl chloride hydrochloride | 5.1 g | Cl.N1=CC(=CC=C1)C=CC(=O)Cl
reactant | 3-amino-4-methyl benzoic acid methyl ester | 2.75 g | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-methyl-3-(3-(pyridin-3-yl)acrylamido)benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)NC(C=CC=1C=NC=CC1)=O)=O | C17H16N2O3
